US08809376B2
{(S)-6-[(R)-7-Fluoro-4-(4-methoxy-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-7-fluoro-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester (84 mg), 4-methoxy-benzylzinc chloride (0.5 mol/L in tetrahydrofuran, 1.2 mL) and tetrakis(triphenylphosphine)-palladium (23 mg). Degassed tetrahydrofuran (1 mL) is added under Ar atmosphere, and the mixture is heated to 60° C. and shaken at this temperature overnight. After cooling to room temperature, the mixture is acidified with 4 N aqueous hydrochloric acid (1 mL) and then neutralized with saturated aqueous ammonia solution. The organic phase is separated, diluted with N,N-dimethylformamide (1 mL), and purified by HPLC on reversed phase (MeCN/water) to give the title compound. LC (method 6): tR=1.16 min.

reactant | {(S)-6-[(R)-4-bromo-7-fluoro-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | 84 mg | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C=CC(=C21)F)Br)=O | C20H18BrFO4
reactant | 4-methoxy-benzylzinc chloride | 0.5 mol/L, 1.2 mL | [Cl-].COC1=CC=C(C[Zn+])C=C1
reactant | hydrochloric acid | 4 N, 1 mL | Cl | ClH
reactant | ammonia | N | H3N
catalyst | tetrakis(triphenylphosphine)-palladium | 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | {(S)-6-[(R)-7-Fluoro-4-(4-methoxy-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C=CC(=C21)F)CC2=CC=C(C=C2)OC)=O | C28H27FO5
